Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
L2 burst fracture with retropulsion; T11 fragment
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ s/p restrained driver involved in a single vehicle high 
speed MVC,
self-extricated. Denies headstrike or LOC. He was transferred to
the ED at ___ via ambulance for work-up. Upon arrival he
underwent a CT of the torso which showed a L2 burst fracture 
with
retropulsion and a T11 fragment. He denies pain, numbness,
tingling or weakness of the bilateral upper extremities. He
denies weakness, pain or tingling of the bilateral lower
extremities but does endorse numbness. He describes left lower
extremity numbness anteriorly and laterally from the hip to the
knee and complete left foot numbness as well as right anterior
and lateral leg numbness which radiates from the hip to the 
knee.
He denies saddle anesthesia, rectal or urinary incontinence. 

 
Past Medical History:
Hepatitis C
Stab wound to lung requiring intervention in ___
 
Social History:
___
Family History:
Unknown. 
 
Physical Exam:
-------------
On admission:
-------------
PHYSICAL EXAM:
T: 98.6  BP: 161/91   HR: 69    RR: 14    O2Sats 98% RA
Gen: Lying on stretcher with c/o lumbar back pain. 
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D    B     T    WE   WF    IP    Q  H     AT    ___    G
R     5    5     5    5    5     4     4  5-    5      5     5
L     5    5     5    5    5     4     5  5     5      5     5

Sensation: Intact to light touch with decreased sensation from
the hips to knees bilaterally and the left foot. 

Reflexes: B T Br Pa Ac
Right     ___  0  0
Left      ___  0  0

Rectal exam normal sphincter control performed by ED resident 
___, MD. 

-------------
On discharge:
-------------
 
Pertinent Results:
Please see OMR for pertinent results.
 
Brief Hospital Course:
Mr. ___ is a ___ yo M who presented to the ED following a 
restrained driver single vehicle MVC. On arrival he underwent a 
CT of the torso, which showed an L2 burst fracture with 
retropulsion and T11 fragment. He was admitted to the 
neuroscience floor. 

#L2 Fracture
The plan for T2-L4 fusion and L1-L3 laminectomy was discussed 
with the patient who became increasingly agitated with the 
surgeon, nursing, and his girlfriend. He asked about 
non-surgical options, which included strict bed rest for 3 
months. The risk of paralysis with bed rest verses surgery were 
discussed at length with the patient. He refused to have the 
procedure. Urgent MRI was ordered to further assess the injury 
to evaluate need for surgery, patient refused MRI. The patient 
refused to wear C-spine collar. The patient's behavior continued 
to escalate and he became more verbally abusive towards staff 
and his girlfriend, he then began throwing objects. Psych was 
consulted. The patient was given Valium, Dilaudid, and Oxycodone 
to manage agitation and pain. The patient requested transfer to 
___ which was approved by Dr. ___. 

#Psych
Due to increased agitation and patient request psych was 
consulted. They deemed him competent to make his own decisions. 
They recommended keeping pain controlled and allowing comforts 
such as eating to manage agitation. Additionally, they 
recommended a 1:1 sitter to make sure the patient did not get 
out of bed. The patient continued to increase in agitation and 
became more violent. He was put in seclusion and security was 
brought in. An EKG was attempted to establish a QTC, however, 
the patient refused aggressively. 

 
Medications on Admission:
Denies
 
Discharge Medications:
none
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
L2 fracture with retropulsion

 
Discharge Condition:
Mental Status: acutely agitated.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Activity
•You have an unstable L2 fracture. You will have to be flat 
bedrest with logroll precaution. You are at risk for paralysis 
and nerve damage. 
•
Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•*** You may take Ibuprofen/ Motrin for pain.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 
•You have refused surgery at ___ where we proposed to do a 
T12 to L4 fusion with and L1-L3 laminectomy. 

 
Followup Instructions:
___